US09359375B2
To a solution of 2-(tert-butoxycarbonylamino)-4,4,4-trifluorobutanoic acid (370 mg, 1.43 mmol) and HOBt hydrate (264 mg, 1.72 mmol) in DMF (5 mL), EDC (332 mg, 1.72 mmol) was added. After being stirred at room temperature for 1 h, conc. NH4OH (14 N, 0.600 mL, 8.40 mmol) was added. The mixture was stirred for 18 h. Water and EtOAc were added. The organic phase was washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give tert-butyl 1-amino-4,4,4-trifluoro-1-oxobutan-2-ylcarbamate as a solid.

reactant | 2-(tert-butoxycarbonylamino)-4,4,4-trifluorobutanoic acid | 1.43 mmol, 370 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)CC(F)(F)F | C9H14F3NO4
reactant | HOBt hydrate | 1.72 mmol, 264 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 1.72 mmol, 332 mg
reactant | NH4OH | 8.40 mmol, 14 N, 0.600 mL | [NH4+].[OH-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | tert-butyl 1-amino-4,4,4-trifluoro-1-oxobutan-2-ylcarbamate | NC(C(CC(F)(F)F)NC(OC(C)(C)C)=O)=O | C9H15F3N2O3
